US04851526
N,N-Dipropyl-N'-[4-(1H-imidazol-1-yl)phenyl]-N'-(2-propenyl)-1,3-propanediamine
In a manner similar to Preparation 4, react 3-(dipropylamino)-N-[4-(1H-imidazol-yl)phenyl]-N-(2-propenyl)propanamide with lithium aluminum hydride to obtain the title compound.

reactant | 3-(dipropylamino)-N-[4-(1H-imidazol-yl)phenyl]-N-(2-propenyl)propanamide | C(CC)N(CCC(=O)N(CC=C)C1=CC=C(C=C1)N1C=NC=C1)CCC | C21H30N4O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | N,N-Dipropyl-N'-[4-(1H-imidazol-1-yl)phenyl]-N'-(2-propenyl)-1,3-propanediamine | C(CC)N(CCCN(CC=C)C1=CC=C(C=C1)N1C=NC=C1)CCC | C21H32N4
